US04979805
32.9 g (0.17M) of 4-heptylaniline was cooled below 0° C. and 85 g of 10% aqueous hydrochloric acid solution was added thereto. To the mixture was then added dropwise an aqueous solution of 12.1 g of sodium nitrite in 70 ml of water while cooling the mixture so as not to exceed 0° C. After the dropwise addition, the reaction was continued for 30 minutes. The reaction mixture was transferred into a dropping funnel and added dropwise therefrom into 300 ml of an 8%-NaOH aqueous solution containing 16 g of phenol while the temperature was kept below 5° C. After the dropwise addition, stirring was continued for 1 hour, and thereafter a 10% aqueous hydrochloric acid solution was added until the pH reached 5 to 6 thereby precipitating the reaction product. The precipitate was placed on a filter, washed with water and dried under reduced pressure overnight. The dried product was washed with 500 ml of petroleum ether and dried under reduced pressure to obtain 34.7 g (0.12M) of 4-hydroxy-4'-heptylazobenzene. The yield was 70%.

reactant | 4-heptylaniline | 0.17M, 32.9 g | C(CCCCCC)C1=CC=C(N)C=C1 | C13H21N
reactant | hydrochloric acid | 85 g | Cl | ClH
reactant | sodium nitrite | 12.1 g | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | phenol | 16 g | C1(=CC=CC=C1)O | C6H6O
solvent | water | 70 ml | O | H2O
product | 4-hydroxy-4'-heptylazobenzene | 0.12M, 34.7 g, yield was 70% | OC1=CC=C(C=C1)N=NC1=CC=C(C=C1)CCCCCCC | C19H24N2O
